US07087611B2
Preparation of 5-[2-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]ethyl]-6-chloro-1, 3-dihydro-2H-indol-2-one hydrochloride anhydrate.
To a flask equipped with magnetic stirrer, thermometer and nitrogen inlet was added 5-(2-(4-(1,2-benzisothiazol-3-yl)-1-piperazinyl)ethyl)-6-chloro-1,3-dihydro-2H-indol-2-one free base (5.0 g) and ethanol (100 mL) and the suspension was stirred at 20–25° C. under nitrogen. A 20.5% anhydrous solution of hydrogen chloride in isopropanol (6.45 g) was added and the mixture was stirred for about 24 h. The product was collected by filtration on a Buchner funnel. The filter cake is rinsed with 3×10 mL of ethanol at 20–25° C. and transferred to a drying oven and dried in vacuo at 65–70° C. for about 24 h., then at 70–75° C. for another 24 h. This afforded 5.27 g of anhydrous ziprasidone hydrochloride. The material contained a small amount of residual ethanol, 0.7% determined by NMR. The IR and powder X-ray diffractogram matched that of the desired anhydrous product as depicted in U.S. Pat. No. 5,312,925.

reactant | 5-(2-(4-(1,2-benzisothiazol-3-yl)-1-piperazinyl)ethyl)-6-chloro-1,3-dihydro-2H-indol-2-one | 5.0 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC=2C=C1CC(NC1=CC2Cl)=O | C21H21ClN4OS
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 6.45 g | C(C)(C)O | C3H8O
product | 5-[2-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]ethyl]-6-chloro-1, 3-dihydro-2H-indol-2-one hydrochloride | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC=2C=C1CC(NC1=CC2Cl)=O | InChI=1S/C21H21ClN4OS.ClH/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;/h1-4,11,13H,5-10,12H2,(H,23,27);1H
